Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Percocet
 
Attending: ___
 
Chief Complaint:
Right hemibody tingling/numbness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ R handed woman with a past medical 
history of recent menorrhagia/dysmenorrhea and obesity who 
presents after 3 episodes of R hemibody paresthesias. 

Briefly, the first event occurred this past ___. The 
patient was at work at the ___ where 
she works in operations. She was talking to a co-worker standing 
up when she felt "dizzy" but denies room spinning or feeling 
faint, but says she felt weak all over and slightly lightheaded. 
She states she "had to stop talking to the other person" or she 
would fall over. She sat down and had thirty seconds of Face, 
arm, leg
tingling (like your limbs are asleep). The symptoms then 
resolved. 

Today, the patient was sitting on the toilet at work. She denies 
any straining, states she did not have a bowel movement and was 
talking on the phone. While sitting on the toilet she developed 
R face, arm, leg paresthesias that were quite strong lasting for 
about 40 seconds. Afterwards she was left with a residual sense 
of numbness on the R cheek as if "I had been to the dentist and 
given novocaine". She called her PCP who works down the street 
and walked down to see her without issues. She denies any 
weakness, confusion, difficulty with her speech or 
in-coordination. At the PCP office she was getting her BP 
checked by the nurse when the event occurred again (R sided 
paresthesias) lasting only 15 seconds. At that point her PCP 
told her to come to the ER. The patient walked herself down the 
street without issue to the ER. 

On arrival here she is still having residual numbness on her 
cheek as well as some intermittent tingling in her R hand. She 
denies any headaches but states when she was ___ she had a year 
of bad migraines while going through a divorce that have since 
resolved. She does have intermittent visual symptoms of
seeing zig zags that will last for a few minutes then go away, 
but she never develops a headache after that. This happens about 
once every 2 months for the past year. She denies any blood 
clots/ dvts/ PEs but states that during her last menstruation 
cycle her periods were very heavy and she passed a clot. She 
went for an ultrasound, the results are still pending. No family 
history of blood clots or miscarriages. She denies any 
autoimmune history . Her mother had a stroke at age ___ but is 
still alive now. Her sister had breast cancer but is in 
remission.  

The patient states she is otherwise healthy, no elevated BP or 
diabetes. She does not take any medications. She denies any 
pain, headaches, nausea, or visual symptoms with this 
presentation today. 
 
On neuro ROS, the pt denies headache, loss of vision, blurred 
vision, diplopia, dysarthria, dysphagia, vertigo, tinnitus or 
hearing difficulty. Denies difficulties producing or 
comprehending speech.  Denies focal weakness. No bowel or 
bladder incontinence or retention. Denies difficulty with gait.
 
On general review of systems, the pt denies recent fever or 
chills.  No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath.  Denies chest pain or tightness, 
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or abdominal pain.  No recent change in bowel or bladder habits. 
 No dysuria.  Denies arthralgias or myalgias. Denies rash.
 
 
Past Medical History:
1. Prior history of migraines, now currently with visual auras
but no headache (acephalgic migraine?) 
2. Obesity 
 
 
Social History:
___
Family History:
Mother is ___, survivor of breast cancer and stroke ___ years ago. 
Sister survivor of breast cancer (Tested negative for BRACA)
 
Physical Exam:
ADMISSION EXAM: 
===============
Vitals:  T 97.1, HR 99, BP 146/95, RR 18:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. 
V: to light touch, decreased sensation in V2+V3 only by 20%, 
same
with pinprick
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   5    ___     5   5       5   
R  5    ___   5    ___     5   5        5   

-Sensory: Decreased sensation to pinprick and light touch on R
arm and leg by 10%. No deficits with proprioception or vibration

-DTRs:
  Bi Tri ___ Pat Ach
L  0  0    0    0   0
R  0  0    0    0   0
Plantar response was mute bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. 

DISCHARGE EXAM: 
===============
VS: Temp: 98.2 (Tm 98.7), BP: 127/85 (111-137/75-85), HR: 84
(80-88), RR: 18 (___), O2 sat: 95% (___), O2 delivery: Ra  
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Attentive. Language is
fluent with intact repetition and comprehension. Normal prosody.
There were no paraphasic errors. Speech was not dysarthric. Able
to follow both midline and appendicular commands. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. No red
desaturation. 
V: intact to pinprick
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact 
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   5    ___     5   5       5   
R  5    ___   5    ___     5   5       5   

-Sensory: normal sensation to pinprick and vibration with the 
exception of mild decrease on the plantar surface of the right 
foot. No deficits with proprioception.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  1    0    0   0
R  2  1    0    0   0
Toes downgoing bilaterally.

-Coordination: No intention tremor. Normal finger-tap 
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty. 

 
Pertinent Results:
ADMISSION LABS: 
===============
___ 02:31PM   GLUCOSE-107* CREAT-0.7 NA+-139 K+-4.1 CL--104 
TCO2-22
___ 02:31PM   estGFR-Using this
___ 02:25PM   UREA N-12
___ 02:25PM   ALT(SGPT)-14 AST(SGOT)-12 ALK PHOS-67 TOT 
BILI-0.2
___ 02:25PM   cTropnT-<0.01
___ 02:25PM   ALBUMIN-4.5 CALCIUM-9.2 PHOSPHATE-3.1 
MAGNESIUM-2.0
___ 02:25PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 02:25PM   WBC-7.3 RBC-4.52 HGB-9.9* HCT-34.9 MCV-77* 
MCH-21.9* MCHC-28.4* RDW-15.6* RDWSD-42.6
___ 02:25PM   NEUTS-61.7 ___ MONOS-6.5 EOS-1.2 
BASOS-0.8 IM ___ AbsNeut-4.47 AbsLymp-2.12 AbsMono-0.47 
AbsEos-0.09 AbsBaso-0.06
___ 02:25PM   PLT COUNT-371
___ 02:25PM   ___ PTT-26.1 ___

IMAGING: 
========
CT/CTA head and neck ___:
1. No large territorial infarct or hemorrhage. Please note that 
MR is more 
sensitive for detection of early infarcts. 
2. No evidence of dissection, occlusion, flow limiting stenosis, 
or aneurysm formation within the great vessels in the head or 
neck. No evidence of occlusion or flow limiting stenosis within 
the aorta or its major branches.  The vessels of the circle of 
___ and their principal intracranial branches are patent. The 
dural venous sinuses appear patent. 

MRI Brain ___:
1. Normal brain MRI. 
  

 
Brief Hospital Course:
___ year old with prior history of migraine headaches who 
presents with transient acute onset right hemibody parasthesias 
not associated with headache, vision changes or other symptoms. 
Her exam initially was notable for right face>arm and leg 
diminished pin and light touch but was otherwise non-focal. 
CT/CTA head and neck without thrombus, dissection, hemorrhage or 
infarct. Her symptoms resolved after admission. She ultimately 
had MRI which was normal. There was no evidence of stroke or 
inflammation. She had no residual symptoms. Workup otherwise 
included normal TSH, borderline low vitamin B12 (274), LDL 110 
and total cholesterol 189, hemoglobin A1c 6.6. 

The presentation may have been due to a migraine variant. There 
was no evidence of a stroke. 

Transitional Issues
===================
[] Follow-up with PCP/OBGYN regarding menorrhagia, iron 
deficiency anemia
[] Follow up with PCP regarding elevated hemoglobin A1c
[] Instructed pt that should she have recurrent symptoms, can do 
trial of Excedrin migraine or NSAIDs.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Cyanocobalamin 1000 mcg PO DAILY 
RX *cyanocobalamin (vitamin B-12) 1,000 mcg 1 capsule(s) by 
mouth daily Disp #*180 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient parasthesias
Complex migraine 
Borderline vitamin B12 deficiency 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital because you were having right sided 
tingling and numbness. We did imaging of your brain which showed 
that you did NOT have a stroke - the MRI of the brain was 
normal. We also did a number of lab tests to look into causes 
for your symptoms. We found out that you have a borderline low 
level of vitamin B12, which may be explaining some of your 
symptoms. Otherwise, your symptoms may have been related to a 
complex migraine. 

Now that you are going home, moving forward it will be helpful 
to follow up with your PCP and ___ neurologist. Should you have 
symptoms again, would recommend taking Ibuprofen or Excedrin 
migraine to see if it helps the migraine.  

Also, unrelated to your symptoms, we found out that you had 
anemia, which may be related to your heavy menstrual periods. We 
also found out that your hemoglobin A1c, which is a marker of 
blood sugars, was mildly elevated. You should discuss both of 
these things with your primary care physician in follow up. 

We wish you the best!
Neurology ___
 
Followup Instructions:
___